US05708008
5-(2-furoyl)amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.13 gm (5.0 mMol) 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole and 0.52 mL (5.0 mMol) 2-furoyl chloride, 0.129 gm (8.1%) of the title compound were recovered as a tan solid.

reactant | 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 5.0 mMol, 1.13 gm | NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C14H17N3
reactant | 2-furoyl chloride | 5.0 mMol, 0.52 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 5-(2-furoyl)amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.129 gm, 8.1% | O1C(=CC=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C19H19N3O2
